US06806265B2
a) 11-Ethyl-8-[2-(4-formyl-2-methylphenoxy)ethyl]-5,11-dihydro-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
A solution of DIAD (395 μL, 2.15 mmol) in THF (0.8 mL) was added dropwise to a solution of 11-ethyl-5,11-dihydro-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (430 mg, 1.44 mmol), 4-hydroxy-3-methylbenzaldehyde (200 mg, 1.47 mmol) and PPh3 (564 mg, 2.15 mmol) in THF (15 mL) at 25° C. The mixture was stirred at 25° C. for 16 h. The reaction mixture was concentrated under reduced pressure and the residue was purified by flash chromatography (EtOAc:toluene, 1:3) to yield the title compound (385 mg, 64% yield).

reactant | DIAD | 2.15 mmol, 395 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 11-ethyl-5,11-dihydro-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 1.44 mmol, 430 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCO)=O)C)C=CC=N2 | C16H18N4O2
reactant | 4-hydroxy-3-methylbenzaldehyde | 1.47 mmol, 200 mg | OC1=C(C=C(C=O)C=C1)C | C8H8O2
reactant | PPh3 | 2.15 mmol, 564 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 11-Ethyl-8-[2-(4-formyl-2-methylphenoxy)ethyl]-5,11-dihydro-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 385 mg, 64% yield | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=C(C=C(C=C3)C=O)C)=O)C)C=CC=N2 | C24H24N4O3
